### PR TITLE
feat(Analysis/Analytic): add AnalyticAt properties for iterated dslope

### PR DESCRIPTION
**Pull request by e-271828**
This PR adds three fundamental lemmas in the `AnalyticAt` namespace to establish the analyticity of the (iterated) `dslope` function:

* `AnalyticAt.dslope_of_ne`
* `AnalyticAt.iterate_dslope_of_ne`
* `AnalyticAt.iterate_dslope` (at the singularity, using `has_fpower_series_iterate_dslope_fslope`)

These properties are crucial for factoring out removable singularities iteratively while preserving analyticity.
This PR was assisted by LLMs (Aristotle and Gemini).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wwylele** [comment]
You can combine `AnalyticAt.iterate_dslope_of_ne` and `AnalyticAt.iterate_dslope` into one theorem without condition on `s`
```
theorem AnalyticAt.iterate_dslope' {f : 𝕜 → E} {z₀ s : 𝕜} (hf : AnalyticAt 𝕜 f s) (n : ℕ) :
    AnalyticAt 𝕜 ((Function.swap dslope z₀)^[n] f) s := by
  by_cases hs : s = z₀
  · simp_rw [← hs]
    exact hf.iterate_dslope n
  exact hf.iterate_dslope_of_ne hs n
```
This is just to demonstrate that this is true, and you can rename this to the new `AnalyticAt.iterate_dslope`. You can either inline the existing code, or keep them as-is and mark them `private`. Similarly, there should also be a publuc `AnalyticAt.dslope` without `(hs : s ≠ z₀)`, and you can make `AnalyticAt.dslope_of_ne` private

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 1]
```diff
@@ -374,3 +374,44 @@ theorem AnalyticOnNhd.map_codiscreteWithin {U : Set 𝕜} {f : 𝕜 → E}
...
+
+/-- If `f` is analytic at `s`, then the `n`-th iterated `dslope` of `f` at `z₀`
+is analytic at `s`. -/
+lemma AnalyticAt.iterate_dslope {f : 𝕜 → E} {z₀ s : 𝕜} (hf : AnalyticAt 𝕜 f s) (n : ℕ) :
+    AnalyticAt 𝕜 ((Function.swap _root_.dslope z₀)^[n] f) s := by
+  by_cases hs : s = z₀
+  · subst hs
+    obtain ⟨p, hp⟩ := hf
+    exact ⟨_, hp.has_fpower_series_iterate_dslope_fslope n⟩
+  · exact hf.iterate_dslope_of_ne hs n
```
Comment (wwylele) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean]:
```suggestion
/-- If `f` is analytic at `s`, then the `n`-th iterated `dslope` of `f` at `z₀`
is analytic at `s`. -/
lemma AnalyticAt.iterate_dslope {f : 𝕜 → E} {z₀ s : 𝕜} (hf : AnalyticAt 𝕜 f s) (n : ℕ) :
    AnalyticAt 𝕜 ((Function.swap _root_.dslope z₀)^[n] f) s :=
  Function.Iterate.rec _ hf (fun _ hf ↦ hf.dslope) n
```

Comment (e-271828) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: Wow, Function.Iterate.rec makes this incredibly elegant! I didn't realize that making the 1-step dslope unconditional would completely eliminate the need for case splitting in the n-step version. Thank you for the amazing guidance. I have committed the suggestion.

**Comment by e-271828** [comment]
> You can combine `AnalyticAt.iterate_dslope_of_ne` and `AnalyticAt.iterate_dslope` into one theorem without condition on `s`
> 
> ```
> theorem AnalyticAt.iterate_dslope' {f : 𝕜 → E} {z₀ s : 𝕜} (hf : AnalyticAt 𝕜 f s) (n : ℕ) :
>     AnalyticAt 𝕜 ((Function.swap dslope z₀)^[n] f) s := by
>   by_cases hs : s = z₀
>   · simp_rw [← hs]
>     exact hf.iterate_dslope n
>   exact hf.iterate_dslope_of_ne hs n
> ```
> 
> This is just to demonstrate that this is true, and you can rename this to the new `AnalyticAt.iterate_dslope`. You can either inline the existing code, or keep them as-is and mark them `private`. Similarly, there should also be a publuc `AnalyticAt.dslope` without `(hs : s ≠ z₀)`, and you can make `AnalyticAt.dslope_of_ne` private

@wwylele 
Thank you so much for the review and the excellent suggestion!

I completely agree that combining them without the condition on `s` makes the API much cleaner and easier to use. 
I have followed your advice, updated the theorems (including the visibility changes you suggested), and already pushed the new commits.

I really appreciate your guidance!

**Review by wwylele — APPROVED** [review]

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 2]
```diff
@@ -374,3 +374,32 @@ theorem AnalyticOnNhd.map_codiscreteWithin {U : Set 𝕜} {f : 𝕜 → E}
...
+  exact h_quot.congr h_eq
+
+/-- If `f` is analytic at `s`, then `dslope f z₀` is analytic at `s`. -/
+lemma AnalyticAt.dslope {f : 𝕜 → E} {z₀ s : 𝕜} (hf : AnalyticAt 𝕜 f s) :
+    AnalyticAt 𝕜 (_root_.dslope f z₀) s := by
+  by_cases hs : s = z₀
+  · subst hs
+    obtain ⟨p, hp⟩ := hf
+    exact ⟨_, hp.has_fpower_series_dslope_fslope⟩
+  · exact hf.dslope_of_ne hs
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean]: The first lemma is trivial if you use `fun_prop`, and there's no reason to have the private lemma which is immediately superseded. So you just inline the proof into the second lemma, like so:
```suggestion
/-- If `f` is analytic at `s`, then `dslope f z₀` is analytic at `s`. -/
protected lemma AnalyticAt.dslope {f : 𝕜 → E} {z₀ s : 𝕜} (hf : AnalyticAt 𝕜 f s) :
    AnalyticAt 𝕜 (dslope f z₀) s := by
  obtain (rfl | hs) := eq_or_ne s z₀
  · obtain ⟨p, hp⟩ := hf
    exact ⟨_, hp.has_fpower_series_dslope_fslope⟩
  · apply AnalyticAt.congr (f := fun z => (z - z₀)⁻¹ • (f z - f z₀)) (by fun_prop (disch := grind))
    filter_upwards [isOpen_ne.mem_nhds hs] with z hz using (dslope_of_ne f hz).symm
```
Also note that we `protect` the lemma to avoid naming clashes with `dslope`.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 3]
```diff
@@ -374,3 +374,32 @@ theorem AnalyticOnNhd.map_codiscreteWithin {U : Set 𝕜} {f : 𝕜 → E}
...
+
+/-- If `f` is analytic at `s`, then the `n`-th iterated `dslope` of `f` at `z₀`
+is analytic at `s`. -/
+lemma AnalyticAt.iterate_dslope {f : 𝕜 → E} {z₀ s : 𝕜} (hf : AnalyticAt 𝕜 f s) (n : ℕ) :
+    AnalyticAt 𝕜 ((Function.swap _root_.dslope z₀)^[n] f) s :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean]:
```suggestion
    AnalyticAt 𝕜 ((Function.swap dslope z₀)^[n] f) s :=
```

**Comment by e-271828** [comment]
Thank you very much for the review and the excellent code suggestions, @j-loreaux!
I have tested both suggestions locally, and they work perfectly while making the proofs significantly more concise and idiomatic. I am pushing these changes now.

**Comment by e-271828** [comment]
-awaiting-author
